US05055585
Added to 320 ml of ethyl alcohol were 160 g (0.74 mol) of 5-butyryl-3-phenylisoxazole and 103 ml of piperidine, followed by the dropwise addition of 96 ml (1.18 mol) of a 37% aqueous solution of formaldehyde under ice cooling over 30 minutes. After the reaction mixture was stirred for 1.5 hours at room temperature, the solvent was distilled off. The residue was dissolved in 800 ml of ethyl ether. The resultant solution was washed with water and the organic layer then dried over anhydrous magnesium sulfate. The solvent was distilled off, whereby the target compound, 5-(2-piperidinomethylbutyryl)-3-phenylisoxazole was obtained as colorless crystals.

reactant | 5-butyryl-3-phenylisoxazole | 0.74 mol, 160 g | C(CCC)(=O)C1=CC(=NO1)C1=CC=CC=C1 | C13H13NO2
reactant | piperidine | 103 ml | N1CCCCC1 | C5H11N
reactant | formaldehyde | C=O | CH2O
solvent | ethyl alcohol | 320 ml | C(C)O | C2H6O
product | 5-(2-piperidinomethylbutyryl)-3-phenylisoxazole | N1(CCCCC1)CC(C(=O)C1=CC(=NO1)C1=CC=CC=C1)CC | C19H24N2O2
